US06825191B2
Step 1: Synthesis of Methyl 3-[((4-chlorobenzoyl)ethoxycarbonylmethylamino)methyl]-4-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzylamino]benzoate
660 mg (1.63 mmol) of methyl 3-[((4-chlorobenzoyl)ethoxycarbonylmethylamino)methyl]-4-aminobenzoate and 431 mg (2.1 mmol) of 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde were dissolved in 10 ml of dichloromethane. 0.185 ml (3.26 mmol) of acetic acid was added to the solution, and they were stirred at room temperature for 30 minutes. 860 mg (4.1 mmol) of sodium triacetoxyborohydride was added to the obtained mixture, and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | methyl 3-[((4-chlorobenzoyl)ethoxycarbonylmethylamino)methyl]-4-aminobenzoate | 1.63 mmol, 660 mg | ClC1=CC=C(C(=O)CCOC(=O)CNCC=2C=C(C(=O)OC)C=CC2N)C=C1 | C20H21ClN2O5
reactant | 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde | 2.1 mmol, 431 mg | N1(CC=CC1)C(=O)C1=CC=C(C=O)C=C1 | C12H11NO2
reactant | acetic acid | 3.26 mmol, 0.185 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4.1 mmol, 860 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methyl 3-[((4-chlorobenzoyl)ethoxycarbonylmethylamino)methyl]-4-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzylamino]benzoate | ClC1=CC=C(C(=O)CCOC(=O)CNCC=2C=C(C(=O)OC)C=CC2NCC2=CC=C(C=C2)C(=O)N2CC=CC2)C=C1 | C32H32ClN3O6
